US08604061B2
a) rac-2-(3-Chloro-phenyl)-5,5,5-trifluoro-pentanoic acid
To a stirred solution of m-chlorophenylacetic acid (2.38 g, 14 mmol) in tetrahydrofuran (85 ml) was added at −78° C. lithium diisopropylamide solution (31 ml 1M in THF, 31 mmol). After stirring the mixture for 20 min 1-iodo-3,3,3-trifluoropropane (4.38 g, 20 mmol) was added and the mixture was allowed to warm to room temperature overnight. Water (5 ml) was added followed by 2N hydrochloric acid (10 ml). The reaction mixture was extracted twice with ethyl acetate. The combined organic layers were dried over MgSO4 and evaporated and the residue was purified by column chromatography (SiO2, heptane/EtOAc=9:1) to yield a colourless oil, (1.75 g, 47%); MS (EI): 264.9 (M+.).

reactant | m-chlorophenylacetic acid | 14 mmol, 2.38 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | lithium diisopropylamide | 31 mmol, 1M, 31 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-iodo-3,3,3-trifluoropropane | 20 mmol, 4.38 g | ICCC(F)(F)F | C3H4F3I
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
solvent | Water | 5 ml | O | H2O
product | rac-2-(3-Chloro-phenyl)-5,5,5-trifluoro-pentanoic acid | ClC=1C=C(C=CC1)C(C(=O)O)CCC(F)(F)F | C11H10ClF3O2
